US06121285
cis 4-(1-Ethoxycarbonylcyclobutyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone (optical isomer B)
Under a nitrogen atmosphere, diisopropylamine (2.97 ml, 21.19 mmol) was dissolved in dry tetrahydrofuran (30 ml). After cooling the solution to -78° C., a 1.63 M solution of n-butyllithium in n-hexane (10.8 ml, 17.60 mmol) was added dropwise thereinto over a period of 5 minutes. Then, the liquid reaction mixture was stirred at 0° C. for 15 minutes and cooled to -78° C. Next, a solution (30 ml) of trans 4-(1-ethoxycarbonyl-cyclopropyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone (optical isomer B; 4.71 g, 14.13 mmol) in dry tetrahydrofuran was added dropwise thereinto over a period of 5 minutes. The liquid reaction mixture was stirred at -78° C. for 3 minutes. Then, it was added dropwise into a solution (40 ml) of 2,6-di-tert-butylphenol (4.37 g, 21.18 mmol) in dry tetrahydrofuran over a period of 5 minutes. The liquid reaction mixture was stirred at -78° C. for 10 minutes and a saturated aqueous solution of ammonium chloride (200 ml) was added thereto. Next, the liquid reaction mixture was brought back to room temperature and the organic layer was taken up. The aqueous layer was extracted with chloroform (100 ml×2). The combined organic layer was washed with water (100 ml×2), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was subjected to silica gel column chromatography to obtain 1.96 g (42%) of the starting compound (eluent:n-hexane:ethyl acetate=2:1) and 1.79 g (38%) of the title compound (eluent:n-hexane:ethyl acetate=3:2) each as an oily substance.

reactant | diisopropylamine | 21.19 mmol, 2.97 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 17.60 mmol, 10.8 ml | CCCCCC | C6H14
reactant | trans 4-(1-ethoxycarbonyl-cyclopropyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone | 14.13 mmol, 30 ml, 4.71 g | C(C)OC(=O)C1(CC1)[C@H]1[C@@H](C(N(C1)[C@@H](C)C1=CC=CC=C1)=O)F | C18H22FNO3
reactant | 2,6-di-tert-butylphenol | 21.18 mmol, 40 ml, 4.37 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | cis 4-(1-Ethoxycarbonylcyclobutyl)-3-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone | 1.79 g, 38% | C(C)OC(=O)C1(CCC1)[C@@H]1[C@@H](C(N(C1)[C@@H](C)C1=CC=CC=C1)=O)F | C19H24FNO3
